US08975252B2
Benzyl-(S)-(+)-glycidyl ether (3.28 g) was dissolved in benzylamine (15 ml) and the mixture was stirred at room temperature for 4 days. Excess benzylamine was removed by evaporation in vacuo and the resulted residue was purified with a silica gel column chromatography (eluting solvent: chloroform to chloroform/methanol=9/1) to give (2S)-1-(benzylamino)-3-(benzyloxy)propane-2-ol (4.50 g) as a colorless oil.

reactant | Benzyl-(S)-(+)-glycidyl ether | 3.28 g | C(C1=CC=CC=C1)OC[C@@H]1CO1 | C10H12O2
reactant | benzylamine | 15 ml | C(C1=CC=CC=C1)N | C7H9N
product | (2S)-1-(benzylamino)-3-(benzyloxy)propane-2-ol | 4.50 g | C(C1=CC=CC=C1)NC[C@@H](COCC1=CC=CC=C1)O | C17H21NO2
